US04593102
3-[(4-Chlorophenyl)thio]piperidine hydrochloride
A mixture of 54 g (0.375 mole) of p-chlorothiophenol, 51.4 g (0.126 mole) of 1-[(4-methylphenyl)sulfonyl]-3-piperidinol-4-methylphenylsulfonate ester and 35 g of sodium carbonate in 500 ml of dimethylformamide was heated at 100° C. for 18 hr. The mixture was cooled and quenched in excess 1M sodium hydroxide solution. The aqueous mixture was extracted with several portions of methylene chloride and the combined methylene chloride extracts were extracted with several portions of 1M sodium hydroxide solution and dried over magnesium sulfate. The solvent was removed in vacuo to give an oil which was shown by NMR, mass spectrum and TLC to be impure N-tosyl-3-(p-chlorothiophenoxy)piperidine. (See Preparation 13 for the pure compound). A mixture of this compound and excess phenol in 75 ml of 48% hydrobromic acid was refluxed for 1 hr and quenched in an ice-water mix. The mixture was made basic with sodium hydroxide and was extracted with several portions of methylene chloride. The aqueous layer was discarded. The combined methylene chloride extracts were dried over magnesium sulfate and the methylene chloride was removed in vacuo to give an oil, the free base of the title compound. The free base was reacted with hydrogen chloride using the solvent pair diethyl ether-methanol for crystallization and recrystallization to obtain the white crystalline hydrochloride salt, m.p. 159°-161° C.

reactant | p-chlorothiophenol | 0.375 mole, 54 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium carbonate | 35 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-tosyl-3-(p-chlorothiophenoxy)piperidine | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC(CCC1)SC1=CC=C(C=C1)Cl | C18H20ClNO2S2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | hydrobromic acid | 75 ml | Br | BrH
product | 3-[(4-Chlorophenyl)thio]piperidine hydrochloride | Cl.ClC1=CC=C(C=C1)SC1CNCCC1 | InChI=1S/C11H14ClNS.ClH/c12-9-3-5-10(6-4-9)14-11-2-1-7-13-8-11;/h3-6,11,13H,1-2,7-8H2;1H
